US03946032
A solution of 15.9 g of 2-(methylthio)-5-(o-fluorophenyl)-7-chloro-3H-1,4-benzodiazepine and 9.7 g of diethoxyacetic acid hydrazide in 100 ml of hexamethylphosphoric acid triamide is heated for 10 hours at 140°; processing is then carried out analogously to the procedure described in Example 1, and the residue recrystallised from ethyl acetate/petroleum ether to obtain 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde-diethylacetal, M.P. 120°-121°.

reactant | 2-(methylthio)-5-(o-fluorophenyl)-7-chloro-3H-1,4-benzodiazepine | 15.9 g | CSC1=NC2=C(C(=NC1)C1=C(C=CC=C1)F)C=C(C=C2)Cl | C16H12ClFN2S
reactant | diethoxyacetic acid hydrazide | 9.7 g | C(C)OC(C(=O)NN)OCC | C6H14N2O3
solvent | hexamethylphosphoric acid triamide | 100 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde-diethylacetal | C(C)OC(C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)F)C=C(C=C1)Cl)OCC | C21H20ClFN4O2
